US07816522B2
To 500 ml of a dichloromethane solution containing 10.2 g of [4-(N-hydroxycarbamimidoyl)phenyl]carbamic acid t-butyl ester (Tetrahedron Lett. 2003, 44, 8697), 8.8 ml of diisopropylethylamine and 8.6 ml of trifluoroacetic anhydride were added at 0° C. under a nitrogen atmosphere. The resulting mixture was stirred for 20 hours, and then 500 ml of ethyl acetate and 500 ml of water were added thereto. The organic layer was washed with 200 ml of water and then with 200 ml of saturated brine and dried over anhydrous magnesium sulfate. The desiccating agent was removed by filtration, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate-heptane) to give [4-(5-trifluoromethyl-[1,2,4]oxadiazol-3-yl)phenyl]carbamic acid t-butyl ester (9.6 g).

reactant | dichloromethane | 500 ml | ClCCl | CH2Cl2
reactant | [4-(N-hydroxycarbamimidoyl)phenyl]carbamic acid t-butyl ester | 10.2 g | C(C)(C)(C)OC(NC1=CC=C(C=C1)C(NO)=N)=O | C12H17N3O3
reactant | diisopropylethylamine | 8.8 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | trifluoroacetic anhydride | 8.6 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | water | 500 ml | O | H2O
solvent | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
product | [4-(5-trifluoromethyl-[1,2,4]oxadiazol-3-yl)phenyl]carbamic acid t-butyl ester | 9.6 g | C(C)(C)(C)OC(NC1=CC=C(C=C1)C1=NOC(=N1)C(F)(F)F)=O | C14H14F3N3O3
